resistor_cube - fault test
V1 n7 0 DC 12
C1 0 n1 8.14e-06
R2 0 n2 1.005803
R3 0 n4 0.988251
R4 n1 n3 1.013203
R5 n1 n5 1.019015
R6 n2 n3 0.984697
R7 n2 n6 1.015595
R8 n3 n7 1.019143
R9 n4 n5 0.987369
R10 n4 n6 0.991236
R11 n5 n7 0.985828
R12 n6 n7 1.015519
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
